US09290451B2
a) 6-Cyclopropylmethoxy-5-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-pyridine-2-carboxylic acid methyl ester
The title compound was synthesized in analogy to the procedure described in Example 32 a), using 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester (Example 9 d) and 6-oxa-1-azaspiro[3.3]heptane, oxalate salt (CAN 1359655-43-8) as starting materials. MS (EI): m/e=305.0 [M+H]+.

reactant | 5-bromo-6-(cyclopropylmethoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)Br)OCC1CC1 | C11H12BrNO3
reactant | 6-oxa-1-azaspiro[3.3]heptane, oxalate salt | C(C(=O)O)(=O)O.N1CCC12COC2
product | 6-Cyclopropylmethoxy-5-(6-oxa-1-aza-spiro[3.3]hept-1-yl)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)N1CCC12COC2)OCC2CC2 | C16H20N2O4
